US07790756B2
A solution of 1-(3-tert-butyl-1-(quinolin-6-yl)-1H-pyrazol-5-yl)-3-(4-(2-((tert-butyldimethylsilyloxy)methyl)pyridin-4-yloxy)-2-fluorophenyl)urea (0.12 g, 0.19 mmol) in THF (2 ml) was treated with TBAF (1.0 ml, 1.0 M solution in THF) at RT for 1 hour. Water (10 ml) was added and the separated solid was filtered, washed with water and dried to give desilylated product 1-(3-tert-butyl-1-(quinolin-6-yl)-1H-pyrazol-5-yl)-3-(2-fluoro-4-(2-(hydroxymethyl)pyridin-4-yloxy)phenyl)urea as a white solid (0.090 g, 91% yield). 1H NMR (400 MHz, DMSO-d6) δ 9.01 (brs, 1H), 8.97 (dd, J=4.2, 1.6 Hz, 2H), 8.50 (brd, J=8.3 Hz, 1H), 8.36 (d, J=5.5 Hz, 2H), 8.18 (m, 2H), 7.97 (dd, J=9, 2 Hz, 1H), 7.63 (dd, J=9, 4.4 Hz, 1H), 7.22 (dd, J=12, 2.5 Hz, 1H), 6.99 (m, 1H), 6.93 (d, J=2.5 Hz, 1H), 6.82 (dd, J=5.7, 2.5 Hz, 1H), 6.48 (s, 1H), 5.40 (t, J=6 Hz, 1H), 4.50 (d, J=8 Hz, 2H), 1.32 (s, 9H); MS (ESI) m/z: 527.2 (M+H+). The free base was converted to hydrochloride salt. 1H NMR (400 MHz, DMSO-d6) δ 9.31 (brs, 1H), 9.23 (m, 1H), 9.07 (dd, J=4.2, 1.6 Hz, 1H), 8.70 (brd, J=8.3 Hz, 1H), 8.65 (d, J=6.8 Hz, 2H), 8.32 (d, J=2 Hz, 1H), 8.27 (d, J=9 Hz, 1H), 8.22 (d, J=9 Hz, 1H), 8.09 (dd, J=9, 2.3 Hz, 1H), 7.75 (dd, J=8, 4.5 Hz, 1H), 7.43-7.37 (m, 2H), 7.34 (d, 2.8 Hz, 1H), 7.12 (m, 1H), 6.48 (s, 1H), 4.77 (s, 2H), 1.32 (s, 9H); MS (ESI) m/z: 527.2 (M+H+).

reactant | 1-(3-tert-butyl-1-(quinolin-6-yl)-1H-pyrazol-5-yl)-3-(4-(2-((tert-butyldimethylsilyloxy)methyl)pyridin-4-yloxy)-2-fluorophenyl)urea | 0.19 mmol, 0.12 g | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)CO[Si](C)(C)C(C)(C)C)F)C=1C=C2C=CC=NC2=CC1 | C35H41FN6O3Si
reactant | TBAF | 1.0 M, 1.0 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | Water | 10 ml | O | H2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-(3-tert-butyl-1-(quinolin-6-yl)-1H-pyrazol-5-yl)-3-(2-fluoro-4-(2-(hydroxymethyl)pyridin-4-yloxy)phenyl)urea | 0.090 g, 91% yield | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)CO)F)C=1C=C2C=CC=NC2=CC1 | C29H27FN6O3
